US07585886B2
Ethyl 4-(2-tert-butyl-2-oxoethyl)benzoate obtained by carrying out reaction of ethyl 4-hydroxybenzoate with tert-butyl bromoacetate in the same manner as in Reference Example 23 (1) was dissolved in dichloromethane, mixed with TFA at room temperature and stirred overnight at room temperature. By evaporating the solvent, [4-(ethoxycarbonyl)phenoxy]acetic acid was obtained as a white solid. EN: 223.

reactant | ethyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [4-(ethoxycarbonyl)phenoxy]acetic acid | C(C)OC(=O)C1=CC=C(OCC(=O)O)C=C1 | C11H12O5
